US07598285B2
Step C (6-Chloro-2-naphthyl)boronic acid.
2-(6-Chloro-2-naphthyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (340 mg, 1.18 mmol) was suspended in a mixture of 20 mL of acetone and 5 mL of aqueous 2N hydrochloric acid and heated at 50° C. for 16 h. The product was purified by reverse phase HPLC to provide the title compound as a white powder. 1H NMP (500 MHz, DMSO) δ: 8.38 (s, 1H); 8.23 (s, 2H); 8.01 (d, J=2.1 Hz, 1H); 7.95 (d, J=8.7 Hz, 1H); 7.91 (d, 8.2 Hz, 1H); 7.84 (d, J=8.2 Hz, 1H); 7.50 (dd, J=2.3, 8.7 Hz, 1H).

reactant | 2-(6-Chloro-2-naphthyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.18 mmol, 340 mg | ClC=1C=C2C=CC(=CC2=CC1)B1OC(C(O1)(C)C)(C)C | C16H18BClO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | (6-Chloro-2-naphthyl)boronic acid | ClC=1C=C2C=CC(=CC2=CC1)B(O)O | C10H8BClO2
